US07723368B2
Step 1: 4-Bromo-2-(but-3-enyloxy)-1-fluorobenzene
To a solution of 5-bromo-2-fluorophenol (19.63 g, 102.8 mmol) in DMF (410 mL) was added Cs2CO3 (40.19 g, 123.36 mmol, 1.2 eq.) followed by 4-bromo-1-butene (15.26 g, 11.48 mL, 113.06 mmol, 1.1 eq.). The mixture was stirred overnight at a temperature between 50 and 60° C. Then additional amounts of Cs2CO3 and the bromoalkene (20.1 g, 0.6 eq.) and (7.53 g, 5.74 mL, 0.55 eq.) respectively were added to the reaction mixture and heating was continued overnight. The mixture was cooled to room temperature and diluted with water. The aqueous mixture was extracted with EtOAc and the aqueous layer was separated and extracted once with EtOAc. The combined organic layers were washed with water, dried over Na2SO4, filtered, and concentrated onto 50 g Celite. Flash chromatography (SiO2, Hexanes to 30% EtOAc 70% Hexanes) provided 11.87 g, 47%, of the title compound as a colorless to light yellow oil.

reactant | 5-bromo-2-fluorophenol | 102.8 mmol, 19.63 g | BrC=1C=CC(=C(C1)O)F | C6H4BrFO
reactant | Cs2CO3 | 123.36 mmol, 40.19 g, 1.2 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-bromo-1-butene | 113.06 mmol, 11.48 mL, 15.26 g, 1.1 eq. | BrCCC=C | C4H7Br
solvent | DMF | 410 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-Bromo-2-(but-3-enyloxy)-1-fluorobenzene | BrC1=CC(=C(C=C1)F)OCCC=C | C10H10BrFO
